US05633248
1-(N,N-Dimethylamino)-4,4-diphenyl-5-(formylamino)pentane
A mixture of 5-formylamino-1-iodo-4,4-diphenylpentane (8.5 g), dimethylamine hydrochloride (17.63 g), triethylamine (30.1 ml), and potassium carbonate (3 g) was heated in acetonitrile (250 ml) at 60° C. for 2 hours. This reaction mixture was concentrated to dryness and the group was extracted using ethyl acetate and water. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated to dryness. The group was crystallized from ethyl acetate-isopropyl ether to provide the title compound (4.5 g) as white powder.

reactant | 5-formylamino-1-iodo-4,4-diphenylpentane | 8.5 g | C(=O)NCC(CCCI)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H20INO
reactant | dimethylamine hydrochloride | 17.63 g | Cl.CNC
reactant | triethylamine | 30.1 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-(N,N-Dimethylamino)-4,4-diphenyl-5-(formylamino)pentane | 4.5 g | CN(C)CCCC(CNC=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26N2O
